datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[C:6]([C:7]([C:8]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[C:6]([H:14])([H:15])[C:7]1([C:8]([H:17])([H:18])[H:19])[H:16])[H:9],124.641
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])[H:9])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21],123.01
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:17][H:18],2.1116648
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:24]([c:25]1[c:26]([H:33])[c:27]([H:34])[c:28]([H:35])[c:29]([H:36])[c:30]1[H:37])([H:31])[H:32])[H:14])([H:12])[H:13],33.8067
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([H:10])([H:11])[H:12],44.8525
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:4])[H:13])[O:5][O:6][H:14])([H:7])([H:8])[H:9].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]=[O:4])[O:5][O:6][H:14])([H:7])([H:8])[H:9].[H:13][O:15][O:16][H:17],15.41498568
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]([C:10](=[C:11]([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8](=[C:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:12])[H:13],105.855
[C:0]1([H:10])[C:1]2([H:11])[C:2]([H:12])([H:13])[c:3]3[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]3[C:9]12[H:18]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2[C:9]1[H:18],68.102968
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([S:9][H:17])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2][H:5])[H:13])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[S:9][H:17])([H:10])([H:11])[H:12],-28.8696
[H:16].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][H:16].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],6.6944
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:16][C:15]([C:14]([H:17])([H:18])[H:19])([H:20])[H:21],29.288
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])[H:8])([H:6])[H:7],38.0326
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([C:14]=[S:15])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])=[S:15],43.0952
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19],20.0832
[C:0]([C:1]([C:2]([O:3][H:10])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3][H:10])([H:7])[H:9])[H:8])([H:4])([H:5])[H:6],125.52
[N:0]#[C:1][O:2][H:3].[O:4][H:5]>>[H:3][O:4][H:5].[N:0]#[C:1][O:2],-1.037632
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][H:9],16.8
